US08669271B2
4-[5-(2-Triisopropylsilanyl-oxazol-5-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2-triisopropylsilanyl-oxazole following a procedure analogous to that described for Intermediate 15. LC (method 10): tR=2.02 min; Mass spectrum (ESI+): m/z=528 [M+H]+.

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2-triisopropylsilanyl-oxazole | CC1(OB(OC1(C)C)C1=CN=C(O1)[Si](C(C)C)(C(C)C)C(C)C)C | C18H34BNO3Si
product | 4-[5-(2-Triisopropylsilanyl-oxazol-5-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=CN=C(O2)[Si](C(C)C)(C(C)C)C(C)C)O1 | C29H45N3O4Si
